US08030497B2
4,5-Dibromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole
To a solution of 403 mg (1.0 mmol) 5-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole in 8 ml glacial acetic acid, 240 mg (1.5 mmol) bromine is slowly added at 10° C. The reaction mixture is allowed to warm to room temperature and is stirred for 3 h. 250 ml EtOAc are added and this solution is washed 1 n NaOH (2×), water and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is recrystallized from EtOAc/hexane to afford 30 mg of the title compound as colorless crystals.

reactant | 5-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 1.0 mmol, 403 mg | BrC1=CC2=C(N(C(=N2)C2=CC=C(C=C2)C(C)C)CCOC)C(=C1)OC | C20H23BrN2O2
reactant | bromine | 1.5 mmol, 240 mg | BrBr | Br2
reactant | EtOAc | 250 ml | CCOC(=O)C | C4H8O2
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 4,5-Dibromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 30 mg | BrC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)Br | C20H22Br2N2O2
